US07238714B2
Step 1. Methyl 5-chloro-2-(3,4-difluorophenoxy)benzoate
The title compound was prepared according to the procedure described in step 1 of Example 67 from methyl 5-chloro-2-fluorobenzoate and 3,4-difluorophenol: 1H-NMR (CDCl3) δ 7.92 (1H, d, J=2.8 Hz), 7.46 (1H, dd, J=8.7, 2.8 Hz), 7.11 (1H, q, J=9.1 Hz), 6.95 (1H, d, J=8.7 Hz), 6.85–6.72 (1H, m), 6.71–6.59 (1H, m), 3.83 (3H, s).

reactant | methyl 5-chloro-2-fluorobenzoate | ClC=1C=CC(=C(C(=O)OC)C1)F | C8H6ClFO2
reactant | 3,4-difluorophenol | FC=1C=C(C=CC1F)O | C6H4F2O
product | Methyl 5-chloro-2-(3,4-difluorophenoxy)benzoate | ClC=1C=CC(=C(C(=O)OC)C1)OC1=CC(=C(C=C1)F)F | C14H9ClF2O3
